### ISSUE TITLE
doc.verso: deleting prose from one docstring makes a later proof fail Decidable synthesis (elaboration state leak?)

### ISSUE THREAD

**Issue by Deicyde** [leanprover/verso#963]
## Setup

- Lean `v4.33.0`, verso `v4.33.0` (`3bdedf29bada`), Mathlib `v4.33.0`, macOS 14.4 (arm64)
- `doc.verso = true` in the package's `leanOptions` (docstrings elaborated as Verso markup during `lake build`)

## Symptom

In a ~1,000-line Mathlib-based module, **shortening the prose of either of two specific docstrings changes the elaboration of an unrelated declaration ~700 lines later**. The proof there fails with:

```
error: TaoMeasure/Section_1_3_1.lean:887:6: failed to synthesize instance of type class
  Decidable (f x = g x)
error: TaoMeasure/Section_1_3_1.lean:888:6: No goals to be solved
```

at this (previously fine) `by_cases`:

```lean
theorem aeEq_equivalence {d : ℕ} (hd : 0 < d) (Z : Type*) :
    Equivalence fun f g : EuclideanSpace ℝ (Fin d) → Z => AEEq f g := by
  constructor
  ...
  · intro f g h hfg hgh
    have hsub : {x | ¬ f x = h x} ⊆ {x | ¬ f x = g x} ∪ {x | ¬ g x = h x} := by
      intro x hx
      by_cases hfgx : f x = g x     -- ← fails here after the docstring edit
      · exact Or.inr fun hghx => hx (hfgx.trans hghx)
      · exact Or.inl hfgx
  ...
```

(`by_cases` on a proposition over an arbitrary `Type*` — the classical fallback normally handles this, and does when the docstring prose is restored.)

One of the two load-bearing docstrings (attached to a plain `def IsSimpleFunc ... : Prop`), original on the left, edited on the right:

```
/-- `Definition 1.3.2` (Simple function; book p. 50).      /-- `Definition 1.3.2` (Simple function; book p. 50).
A *(complex-valued) simple function* `f : ℝᵈ → ℂ` is a     The book's `Simp(ℝᵈ)`, a commutative ∗-algebra
finite linear combination (1.8)                            (`isSimpleFunc_algebra_ops`); the same emphases as
`f = c₁ 1_{E₁} + ⋯ + c_k 1_{E_k}` of indicator             for the unsigned case apply. -/
functions of Lebesgue measurable sets `Eᵢ ⊆ ℝᵈ`,
where `k ≥ 0` and `c₁, …, c_k ∈ ℂ`. ... -/
```

The other is a similar prose-only shortening of a nearby lemma docstring; **either edit alone triggers the failure, and reverting either prose edit alone fixes it** when the other is intact.

## What we ruled out

- **Code changes**: after stripping comments, the passing and failing files are byte-identical *including all whitespace and layout* (verified with a nesting-aware comment stripper + diff).
- **Stale build state**: reproduced across forced clean recompiles (artifacts deleted) in both directions, and distinguished true recompiles from Lake's log replay.
- **Nondeterminism**: an automated bisection over the file's 45 comment-only diff hunks ran 13 builds with perfectly consistent pass/fail results, isolating exactly these two hunks.
- **Environment**: the original-prose file builds green both locally and in CI on the same toolchain.

## Hypothesis

Something in the `doc.verso` docstring elaboration path (possibly the code-element suggestion machinery — the module emits many "Code element could be more specific" hints for unresolvable spans) perturbs state that later term elaboration observes — the failure surfaces as `Decidable` instance synthesis failing where the classical fallback should (and otherwise does) engage. The removed docstring text is rich in code spans that don't elaborate (`f = c₁ 1_{E₁} + ⋯ + c_k 1_{E_k}`, `Eᵢ ⊆ ℝᵈ`), so the *number/kind of failed span elaborations* changing is one candidate mechanism.

## Repro access

The module lives in a private repo (`mathlib-initiative/tao-measure-lean`, `TaoMeasure/Section_1_3_1.lean`; the failing/passing pair differs only in comments). Happy to give a maintainer access, run instrumented builds, or attempt a standalone minimization if this doesn't ring a bell.

🤖 Filed with [Claude Code](https://claude.com/claude-code) after an automated bisection; details verified by hand.

**Comment by Deicyde** [comment]
bug
